US07642031B2
36.4 parts by weight of behenyl methacrylate, 3.9 parts by weight of methacrylic acid (30 mol % of the total quantity of monomers) and 0.72 parts by weight of dodecanethiol are dissolved in 75 parts by weight of toluene, 0.75 parts by weight of the radical initiator azobisisobutyronitrile (AIBN) is added, and the resulting mixture is reacted for 16 hours at 70° C. under an atmosphere of nitrogen. Subsequently, the product is precipitated in 1 liter of methanol, and is then dried, thereby yielding a methacrylic acid-behenyl methacrylate copolymer (2). The weight average molecular weight, measured by GPC against polystyrene standards, is 16,200. The acid value is 63 mgKOH/g, and the melting point is 52° C.

reactant | behenyl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C26H50O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | dodecanethiol | C(CCCCCCCCCCC)S | C12H26S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | methacrylic acid behenyl methacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | InChI=1S/C26H50O2.C4H6O2/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-28-26(27)25(2)3;1-3(2)4(5)6/h2,4-24H2,1,3H3;1H2,2H3,(H,5,6)
